US05972951
Ethyl N-(4-bromo-3-methylphenyl)carbamate
4-Bromo-3-methylaniline (5.00 g, 27 mmol) and triethylamine (4.5 ml, 32 mmol) were stirred in dichloromethane (200 ml) as ethyl chloroformate (3.1 ml, 32 mmol) was added dropwise. The mixture was stirred for 2 h, when water was added. After stirring for a further 15 min, the white precipitate was filtered off, and the filtrate was separated. The organic portion was dried (Na2SO4) and evaporated to give the title compound (2.57 g, 37%) as an orange-brown oil.

reactant | 4-Bromo-3-methylaniline | 27 mmol, 5.00 g | BrC1=C(C=C(N)C=C1)C | C7H8BrN
reactant | triethylamine | 32 mmol, 4.5 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 32 mmol, 3.1 ml | ClC(=O)OCC | C3H5ClO2
reactant | water | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | Ethyl N-(4-bromo-3-methylphenyl)carbamate | 2.57 g, 37% | BrC1=C(C=C(C=C1)NC(OCC)=O)C | C10H12BrNO2
